US05136080
2. 2,4-Diamino-5-(2,4-dichlorophenyl)-6-fluoromethylpyrimidine
To a solution of 2,4-diamino-6-bromomethyl-5-(2,4-dichlorophenyl) pyrimidine (1.04 g) in tetramethylene sulphone (4.5 ml) was added cesium fluoride (1 g). The mixture was stirred and heated at 100° C. for 4 hours, cooled, diluted with water and extracted with chloroform. The combined extracts were washed with water, dried (MgSO4) and concentrated in vacuo. The residue was chromatographed (silica; 19:1:0.1 dichloromethane/methanol/triethylamine) to give the title compound, which was recrystallised from ethanol. 0.19 g, mp. 210°-211° C.

reactant | 2,4-diamino-6-bromomethyl-5-(2,4-dichlorophenyl) pyrimidine | 1.04 g | NC1=NC(=C(C(=N1)N)C1=C(C=C(C=C1)Cl)Cl)CBr | C11H9BrCl2N4
reactant | cesium fluoride | 1 g | [F-].[Cs+]
solvent | tetramethylene sulphone | 4.5 ml | C1CCCS1(=O)=O | C4H8O2S
solvent | water | O | H2O
product | 2,4-Diamino-5-(2,4-dichlorophenyl)-6-fluoromethylpyrimidine | NC1=NC(=C(C(=N1)N)C1=C(C=C(C=C1)Cl)Cl)CF | C11H9Cl2FN4
